US08378108B2
Cyclopropyl magnesium bromide (0.5 M solution in tetrahydrofuran, 6.3 mL, 3 equiv) was added to a solution of 4-(2-chloropyrimidin-5-yl)-N-(3-(4-cyclopropyl-4H-1,2,4-triazol-3-yl)phenyl)picolinamide (440 mg, 1.06 mmol) and Fe(acac)3 (37 mg, 10 mol %) in N-methylpyridine (20 mL) and tetrahydrofuran (5 mL). After stirring for 5 minutes, the brown solution was quenched with 1 M hydrochloric acid (6 mL) and concentrated under reduced pressure at 70° C. The residue was purified by reverse-phase HPLC to give N-(3-(4-cyclopropyl-4H-1,2,4-triazol-3-yl)phenyl)-4-(2-cyclopropylpyrimidin-5-yl)picolinamide as a pale-yellow powder (200 mg, 45% yield). C24H21N7O. 424.1 (M+1). 1H NMR (DMSO) d 10.95 (s, 1H), 9.18 (s, 2H), 8.86 (d, J=5.2 Hz, 1H), 8.63 (s, 1H), 8.58 (s, 1H), 8.51 (d, J=1.2 Hz, 1H), 8.11 (dd, J=5.2, 2.0 Hz, 1H), 8.07 (d, J=8.0 Hz, 1H), 7.69 (d, J=8.0 Hz, 1H), 7.55 (t, J=8.0 Hz, 1H), 3.66 (m, 1H), 2.32 (m, 1H), 1.10 (m, 6H), 0.95 (m, 2H).

reactant | Cyclopropyl magnesium bromide | 0.5 M, 6.3 mL, 3 equiv | C1(CC1)[Mg]Br
reactant | 4-(2-chloropyrimidin-5-yl)-N-(3-(4-cyclopropyl-4H-1,2,4-triazol-3-yl)phenyl)picolinamide | 1.06 mmol, 440 mg | ClC1=NC=C(C=N1)C1=CC(=NC=C1)C(=O)NC1=CC(=CC=C1)C1=NN=CN1C1CC1 | C21H16ClN7O
solvent | N-methylpyridine | 20 mL | CN1CC=CC=C1 | C6H9N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | N-(3-(4-cyclopropyl-4H-1,2,4-triazol-3-yl)phenyl)-4-(2-cyclopropylpyrimidin-5-yl)picolinamide | 200 mg, 45% yield | C1(CC1)N1C(=NN=C1)C=1C=C(C=CC1)NC(C1=NC=CC(=C1)C=1C=NC(=NC1)C1CC1)=O | C24H21N7O
